US07723333B2
2-Butyl-4-[(3-morpholin-4-ylpropyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide and 3-morpholin-4-ylpropan-1-amine in a similar manner as described for e.g. Example 6 and 7. 1H NMR (500 MHz, CDCl3): δ 7.58 (bs, 1H), 7.58-7.52 (m, 2H), 7.48-7.40 (m, 3H), 3.84-3.78 (m, 4H), 3.70 (t, 2H), 2.98-2.92 (m, 2H), 2.50-2.38 (m, 6H), 1.86-1.80 (m, 2H), 1.62-1.52 (m, 2H), 1.50-1.40 (m, 2H), 0.98 (t, 3H); 13C NMR (125 MHz, CDCl3): δ 159.3, 136.4, 131.8, 129.5, 128.7, 125.7, 105.9, 66.9, 58.3, 54.0, 45.6, 40.2, 30.5, 24.1, 20.3, 13.8; Mass Spectrum: M+H+ 408.

reactant | 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(CCC)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | 3-morpholin-4-ylpropan-1-amine | N1(CCOCC1)CCCN | C7H16N2O
product | 2-Butyl-4-[(3-morpholin-4-ylpropyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(CCC)N1S(C(=C(C1=O)NCCCN1CCOCC1)C1=CC=CC=C1)(=O)=O | C20H29N3O4S
